US07829570B2
N2-{4-[7-Amino-3-(1-tetrahydro-2H-4-pyranyl-4-piperidyl)-1H-pyrazolo[4,3-d]pyrimidin-1-yl]-2-methoxyphenyl}-1-methyl-1H-2-indolecarboxamide maleate
A mixture of N2-{4-[7-amino-3-(4-piperidyl)-1H-pyrazolo[4,3-d]pyrimidin-1-yl]-2-methoxyphenyl}-1-methyl-1H-2-indolecarboxamide (320 mg, 0.645 mmol), tetrahydro-4H-pyran-4-one (129 mg, 1.29 mmol) and sodium triacetoxyborohydride (275 mg, 1.29 mmol) in 1,2-dichloroethane (15 mL) was heated at 75° C. for 3 hours. The mixture was treated with saturated aqueous sodium bicarbonate (20 mL) and the layers were separated. The aqueous layer was extracted with dichloromethane (3×20 mL) then the combined organic solutions were dried over magnesium sulfate, filtered and the filtrate concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel then the material (190 mg) was heated to reflux in a mixture of ethyl acetate (10 mL) and ethanol (1 mL). Maleic acid (85 mg) in ethyl acetate (4 mL) was added to the mixture, which was then heated at reflux for 30 min. The mixture was cooled to ambient temperature then the solid was collected by filtration to yield the title compound (220 mg): 1H NMR (DMSO-d6, 400 MHz) δ 9.49 (s, 1H), 9.15 (bs, 1H), 8.33 (s, 1H), 8.13 (d, 1H), 7.71 (d, 1H), 7.59 (d, 1H), 7.35 (m, 3H), 7.28 (s, 1H), 7.16 (m, 2H), 6.8 (bs, 2H), 6.02 (s, 2H), 4.04 (s, 3H), 3.99 (m, 1H), 3.94 (s, 1H), 3.2-3.6 (m, 8H), 2.31 (m, 4H), 2.0 (m, 2H), 1.70 (m, 2H); RP-HPLC (Hypersil HS C18, 5 μm, 100 A, 250×4.6 mm; 5%-100% acetonitrile-0.05 M ammonium acetate over 25 min, 1 mL/min) tr 15.63 min; MS: MH+ 581.2, M−H+ 579.2

reactant | N2-{4-[7-amino-3-(4-piperidyl)-1H-pyrazolo[4,3-d]pyrimidin-1-yl]-2-methoxyphenyl}-1-methyl-1H-2-indolecarboxamide | 0.645 mmol, 320 mg | NC=1C2=C(N=CN1)C(=NN2C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C2CCNCC2 | C27H28N8O2
reactant | tetrahydro-4H-pyran-4-one | 1.29 mmol, 129 mg | O1CCC(CC1)=O | C5H8O2
reactant | sodium triacetoxyborohydride | 1.29 mmol, 275 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 20 mL | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | 15 mL | ClCCCl | C2H4Cl2
product | N2-{4-[7-Amino-3-(1-tetrahydro-2H-4-pyranyl-4-piperidyl)-1H-pyrazolo[4,3-d]pyrimidin-1-yl]-2-methoxyphenyl}-1-methyl-1H-2-indolecarboxamide maleate | 220 mg | C(\C=C/C(=O)O)(=O)O.NC=1C2=C(N=CN1)C(=NN2C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C2CCN(CC2)C2CCOCC2 | InChI=1S/C32H36N8O3.C4H4O4/c1-38-25-6-4-3-5-21(25)17-26(38)32(41)36-24-8-7-23(18-27(24)42-2)40-30-29(34-19-35-31(30)33)28(37-40)20-9-13-39(14-10-20)22-11-15-43-16-12-22;5-3(6)1-2-4(7)8/h3-8,17-20,22H,9-16H2,1-2H3,(H,36,41)(H2,33,34,35);1-2H,(H,5,6)(H,7,8)/b;2-1-
